US08110593B2
27.3 gr (0.27 Mol) of 2-hydroxy-3-methoxy-propionitrile was dissolved dichloromethane (250 ml) and treated first with 56.4 ml (0.40 Mol) triethylamine keeping the temperature below −8° C., followed by dropwise addition of 23.1 ml (0.297 mol) methansulfonyl chloride keeping the temperature below +7° C. under cooling. After the exothermic reaction ceased the mixture was left to reach room-temperature. Water was stirred in, and the mixture was extracted with tert.-butylmethylether, washed with brine, dried and evaporated. To remove some polar side-products the crude liquid obtained was filtered through silica gel (eluent: cyclohexane/ethylacetate 1:1). Methanesulfonic acid 1-cyano-2-methoxy-ethyl ester of 89% purity (GC-MS) was obtained; 1H-NMR (CDCl3): 5.33, t, 1H, 3.81, d, 2H, 3.48, s, 3H, 3.21, s, 3H.

reactant | 2-hydroxy-3-methoxy-propionitrile | 0.27 Mol, 27.3 gr | OC(C#N)COC | C4H7NO2
reactant | dichloromethane | 250 ml | ClCCl | CH2Cl2
reactant | triethylamine | 0.40 Mol, 56.4 ml | C(C)N(CC)CC | C6H15N
reactant | methansulfonyl chloride | 0.297 mol, 23.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | Water | O | H2O
product | Methanesulfonic acid 1-cyano-2-methoxy-ethyl ester | C(#N)C(COC)OS(=O)(=O)C | C5H9NO4S
